US07947680B2
5-Methyl-pyrazine-2-carboxylic acid {3-[(1-methyl-1H-pyrazole-3-carbonyl)-amino]-adamantan-1-yl}-amide
To a solution of adamantane-1,3-diamine (20 mg, 0.1 mmol; Zerenex Molecular Ltd., Greater Manchester, UK) in DCM (2 mL) was added DIEA (26 mg, 0.15 mmol), 1-methyl-1H-pyrazole-3-carboxylic acid (14 mg, 0.11 mmol), 5-methyl-pyrazine-2-carboxylic acid (15 mg, 0.11 mmol) and benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate (110 mg, 0.20 mmol). After stirring for 3 hours at rt, the reaction mixture was partitioned into dichloromethane and saturated sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified on a RP-HPLC/MS purification system (Gradient: acetonitrile in water, 25-95%, in 3.4 minutes with a cycle time of 5 min. A shallow gradient between 25-50% of acetonitrile was used between 0.75-3.3 min to separate close-eluting impurities. Flow rate: 100 mL/min. Mobile phase additive: 25 mM of ammonium formate. Column: Inertsil® C8, 30×50 mm, 5 μm particle size (GL Sciences, Tokyo, Japan)) to afford 15 mg (37%) of the title compound, 5-methyl-pyrazine-2-carboxylic acid {3-[(1-methyl-1H-pyrazole-3-carbonyl)-amino]-adamantan-1-yl}-amide, as a colorless oil. 1H NMR (400 MHz, CDCl3) δ9.22 (s, 1H), 8.34-8.33 (m, 1H), 7.67 (s, br, 1H), 7.33 (d, J=2.3 Hz, 1H), 6.76-6.72 (m, 2H), 3.89 (s, 3H), 2.64 (s, 3H), 2.54 (s, br, 2H), 2.37-2.09 (m, 10H), 1.73-1.68 (m, 2H). ESI-MS m/z: 395.0 (M+H)+.

reactant | adamantane-1,3-diamine | 0.1 mmol, 20 mg | C12(CC3(CC(CC(C1)C3)C2)N)N | C10H18N2
reactant | DIEA | 0.15 mmol, 26 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methyl-1H-pyrazole-3-carboxylic acid | 0.11 mmol, 14 mg | CN1N=C(C=C1)C(=O)O | C5H6N2O2
reactant | 5-methyl-pyrazine-2-carboxylic acid | 0.11 mmol, 15 mg | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate | 0.20 mmol, 110 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-pyrazine-2-carboxylic acid {3-[(1-methyl-1H-pyrazole-3-carbonyl)-amino]-adamantan-1-yl}-amide | 15 mg, 37% | CN1N=C(C=C1)C(=O)NC12CC3(CC(CC(C1)C3)C2)NC(=O)C2=NC=C(N=C2)C | C21H26N6O2
